US05428037
A mixture of 1,5-dimethyl-2-(4-trifluoromethylphenyl)imidazole (0.6 g), aqueous formaldehyde (3.5 ml of 36%), sodium acetate (0.6 g), and acetic acid (0.5 ml) was refluxed for 24 hours. The mixture was cooled, and concentrated sodium hydroxide added until the mixture was just: basic, keeping the temperature at about 10° C. The mixture was extracted with methylene chloride, and solvent removed from the organic layer under reduced pressure. The residue was flash-chromatographed on silica gel, eluting with methylene chloride containing methanol (97/3), to yield 0.4 g of 1,5-dimethyl-4-hydroxymethyl-2-(4-trifluoromethyl-phenyl)imidazole, m.p. 152° C.

reactant | 1,5-dimethyl-2-(4-trifluoromethylphenyl)imidazole | 0.6 g | CN1C(=NC=C1C)C1=CC=C(C=C1)C(F)(F)F | C12H11F3N2
reactant | formaldehyde | 3.5 ml | C=O | CH2O
reactant | sodium acetate | 0.6 g | C(C)(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
product | 1,5-dimethyl-4-hydroxymethyl-2-(4-trifluoromethyl-phenyl)imidazole | 0.4 g | CN1C(=NC(=C1C)CO)C1=CC=C(C=C1)C(F)(F)F | C13H13F3N2O
